US07423147B2
Step B. 4-[6-(4-Piperidin-1-yl-but-1-ynyl)-pyridin-2-ylmethyl]-morpholine.
The title compound (19%) was prepared in a manner similar to that described in Example 18, Step D, using 4-(6-bromo-pyridin-2-ylmethyl)-morpholine (0.278 g, 1.08 mmol) and 1-but-3-ynyl-piperidine (0.297 g, 2.16 mmol). MS (ESI): exact mass calcd. for C19H27N3O, 313.45; m/z found, 314.4 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.52 (t, J=7.8, 1H), 7.32 (dd, J=8.0, 1.1, 1H), 7.20 (dd, J=7.1, 1.1, 1H), 3.65 (t, J=4.6, 4H), 3.58 (s, 2H), 2.65-2.55 (m, 4H), 2.46-2.37 (m, 8H), 1.57-1.49 (m, 4H), 1.41-1.34 (m, 2H).

reactant | 4-(6-bromo-pyridin-2-ylmethyl)-morpholine | 1.08 mmol, 0.278 g | BrC1=CC=CC(=N1)CN1CCOCC1 | C10H13BrN2O
reactant | 1-but-3-ynyl-piperidine | 2.16 mmol, 0.297 g | C(CC#C)N1CCCCC1 | C9H15N
product | 4-[6-(4-Piperidin-1-yl-but-1-ynyl)-pyridin-2-ylmethyl]-morpholine | 19% | N1(CCCCC1)CCC#CC1=CC=CC(=N1)CN1CCOCC1 | C19H27N3O
